US04001254
24.5 g of 2-(4'-chlorophenylsulphonyl)-5-nitro-pyridine is dissolved in 300 ml of ethanol, and the solution, after the addition of 3 g of Raney nickel, hydrogenated at a temperature of between 20°and 35° C until the reaction ceases. Raney nickel is filtered of under nitrogen by suction. The solvent is evaporated off under vacuo to obtain 2-(4'-chlorophenylsulphonyl)-5-amino-pyridine, which is further processed in the crude state.

reactant | 2-(4'-chlorophenylsulphonyl)-5-nitro-pyridine | 24.5 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=NC=C(C=C1)[N+](=O)[O-] | C11H7ClN2O4S
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 2-(4'-chlorophenylsulphonyl)-5-amino-pyridine | ClC1=CC=C(C=C1)S(=O)(=O)C1=NC=C(C=C1)N | C11H9ClN2O2S
